US07541374B2
1.28 g of 3-i-propyl-1H-pyrazole-1-ylmethanol was dissolved to 20 ml of dichloromethane. 2 ml of thionyl chloride was added to the solution, followed by stirring at room temperature for overnight. The reaction mixture was concentrated under reduced pressure to obtain 1.58 g of 3-i-propyl-1-(chloromethyl)-1H-pyrazole hydrochloride.

reactant | 3-i-propyl-1H-pyrazole-1-ylmethanol | 1.28 g | C(C)(C)C1=NN(C=C1)CO | C7H12N2O
reactant | thionyl chloride | 2 ml | S(=O)(Cl)Cl | Cl2OS
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 3-i-propyl-1-(chloromethyl)-1H-pyrazole hydrochloride | 1.58 g | Cl.C(C)(C)C1=NN(C=C1)CCl | InChI=1S/C7H11ClN2.ClH/c1-6(2)7-3-4-10(5-8)9-7;/h3-4,6H,5H2,1-2H3;1H
